US04008230
To 0.391 g. (1 mmol.) of mercuric acetate in a mixture of 15 ml. of toluene and 15 ml. of isobutyric acid are added 0.739 g. (1 mmol.) of 3-hydroxy-4 -bromo-2-[2-formylthio-4-oxo-3-(α-benzhydryloxycarbonylphenylacetamido)-1-azetidinyl]-2-butenoate, benzhydryl ester, as a neat solid. The mixture is stirred for 20 minutes at 18° C., after which time the solution becomes cloudy. n-Propyl mercaptan is added to the mixture, and the mixture then is filtered through activated charcoal and a filter aide. The resulting filtrate is evaporated, and a residue comprising benzhydryl 7-(α-benzhydryloxycarbonylphenylacetamido)-3-hydroxy-3-cephem-4-carboxylate is obtained.

reactant | isobutyric acid | C(C(C)C)(=O)O | C4H8O2
reactant | 3-hydroxy-4 -bromo-2-[2-formylthio-4-oxo-3-(α-benzhydryloxycarbonylphenylacetamido)-1-azetidinyl]-2-butenoate | 1 mmol | OC(=C(C(=O)[O-])N1C(C(C1=O)NC(C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)SC=O)CBr
reactant | n-Propyl mercaptan | C(CC)S | C3H8S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzhydryl 7-(α-benzhydryloxycarbonylphenylacetamido)-3-hydroxy-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=CC=CC=C1 | C42H34N2O7S
